US04263207
Methyl Dibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-Dioxide
Stir a suspension of 12.766 gm (67.33 mmole) of anhydrous stannous chloride in 350 ml of dry ether while passing dry hydrogen chloride through the suspension at a rate sufficient to cause brisk reflut. When the suspension is saturated, add 5.63 gm 16,83 mmole) of methyl-11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-dioxide in portions over 15 minutes. Continue introduction of hydrogen chloride for 1 hour. Decant the ether layer and pour the residue into a mixture of 200 ml of ether and 100 ml of water. Separate the ether layer and wash with 25 ml of 5 N aqueous sodium hydroxide and then with 50 ml of saturated sodium chloride solution. Dry the ether layer over magnesium sulfate and evaporate to 20 ml. Separate the precipitate by filtration. Chromatograph over silica gel eluting with 1:4 ethyl acetate in toluene. Disolve the product in boiling methanol, filter and evaporate to 10 ml. Separate the solid by filtration to obtain the title product (m.p. 181°-181.5° C.).

reactant | hydrogen chloride | Cl | ClH
reactant | methyl-11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-dioxide | CC1=CC(=CC2=C1C(=NC1=C(S2(=O)=O)C=CC=C1)Cl)C(=O)[O-]
reactant | ether | 350 ml | CCOCC | C4H10O
product | Methyl Dibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-Dioxide | C1=CC(=CC2=C1C=NC1=C(S2(=O)=O)C=CC=C1)C(=O)OC | C15H11NO4S
